US03959292
Boiling a solution of 12.5 g of 3-nitrobenzylideneacetoacetic acid methyl ester and 9.2 g of 3-pyrrolidino-3-aminoacrylic acid ethyl ester in 100 ml of ethanol for 2 hours yields 2-pyrrolidino-6-methyl-4-(3-nitrophenyl)-4,5-dihydropyridine-3,5-dicarboxylic acid 3-ethyl ester-5-methyl ester of melting point 103°C (isopropanol/ether). Yield: 74% of theory.

reactant | 3-nitrobenzylideneacetoacetic acid methyl ester | 12.5 g | COC(CC(=O)C=CC1=CC(=CC=C1)[N+](=O)[O-])=O | C12H11NO5
reactant | 3-pyrrolidino-3-aminoacrylic acid ethyl ester | 9.2 g | C(C)OC(C=C(N)N1CCCC1)=O | C9H16N2O2
reactant | isopropanol ether | C(C)(C)O.CCOCC
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-pyrrolidino-6-methyl-4-(3-nitrophenyl)-4,5-dihydropyridine-3,5-dicarboxylic acid 3-ethyl ester-5-methyl ester | Yield: 74% | COC(=O)C1C(C(=C(N=C1C)N1CCCC1)C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-] | C21H25N3O6
